US05326693
An aqueous solution medium containing 13 g/dl of sucrose, 0.5 g/dl of urea, 0.1 g/dl of KH2PO4, 0.04 g/dl of MgSO4.7 H2O, 2 ppm each of Fe and Mn ions, 5 μg/l of biotin, 200 μg/l of thiamine hydrochloride and 0.3 ml/dl of soybean protein hydrochloric acid hydrolysate "AJI-EKI" (total nitrogen of 7%), adjusted to pH 7.2 was prepared and 20 ml of the medium was separately charged into a shake flask of 500 ml volume. After sterilization, Asp-producing bacteria, Brevibacterium flavum (FERM BP-2178) and His-producing bacteria, Brevibacterium flavum (ATCC 21406), which had been previously grown on bouillon slants, were inoculated in the same flask followed by spinner culture at 31° C. for 72 hours. During the incubation, an aqueous urea solution having a concentration of 40 g/dl was supplemented by small portions to keep the pH between 6.5 to 8.0. In the fermentation broth, 0.95 g/dl of L-aspartic acid and 0.85 g/dl of L-histidine were accumulated.

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | urea | NC(=O)N | CH4N2O
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | thiamine hydrochloride | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO.Cl.[Cl-]
reactant | hydrochloric acid | Cl | ClH
catalyst | Fe | [Fe] | Fe
solvent | H2O | O | H2O
product | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
